US04439448
In 10 ml of methanol was suspended 1.68 g (0.005 mole) of N-[4-(1-ethoxycarbonyl-n-propyl)phenyl]-L-glutamine and a solution of 0.42 g of sodium hydroxide in 20 ml of water was added thereto and stirred for 1.5 hours at room temperature. The solvent was then distilled off in vacuo to about a half volume and the remaining solution was acidified to pH 4 with 5% hydrochloric acid. The precipitated crystals were collected by filtration, washed with cold water and dried in vacuo to give 1.16 g (0.0038 mole, 75% yield) of N-[4-(1-carboxy-n-propyl)phenyl]-L-glutamine, m.p. 166.5°-167.0° C.

reactant | N-[4-(1-ethoxycarbonyl-n-propyl)phenyl]-L-glutamine | 0.005 mole, 1.68 g | C(C)OC(=O)C(CC)C1=CC=C(C=C1)N[C@@H](CCC(N)=O)C(=O)O | C17H24N2O5
reactant | sodium hydroxide | 0.42 g | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | N-[4-(1-carboxy-n-propyl)phenyl]-L-glutamine | 0.0038 mole, 1.16 g, 75% yield | C(=O)(O)C(CC)C1=CC=C(C=C1)N[C@@H](CCC(N)=O)C(=O)O | C15H20N2O5
